US07288553B2
N-(4-Cyano-2-iodo-5-trifluoromethyl-phenyl)-methanesulfonamide
4-Amino-5-iodo-2-trifluoromethyl-benzonitrile (8.04 g, 25.77 mmoles) was dissolved in anhydrous THF (60 mL), stirred under a nitrogen atmosphere and cooled in an ice/brine bath for 20 min. 1.0 M potassium tert-butoxide in THF (82 mL, 82 mmoles) was added and the reaction mixture was stirred for 20 min. Methanesulfonyl chloride (3.2 mL, 41.18 mmoles) was then added and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was quenched with 1N HCl (90 mL) and extracted with dichloromethane (3×100 mL). The organic extracts were diluted with diethyl ether and a white solid precipitated. The solid was filtered, washed and dried to yield the title compound. The filtrate was concentrated to a crude orange solid. The compound was purified by column chromatography (SiO2, 100% CH2Cl2).

reactant | 4-Amino-5-iodo-2-trifluoromethyl-benzonitrile | 25.77 mmoles, 8.04 g | NC1=CC(=C(C#N)C=C1I)C(F)(F)F | C8H4F3IN2
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | Methanesulfonyl chloride | 41.18 mmoles, 3.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 82 mmoles, 82 mL | C1CCOC1 | C4H8O
product | N-(4-Cyano-2-iodo-5-trifluoromethyl-phenyl)-methanesulfonamide | C(#N)C1=CC(=C(C=C1C(F)(F)F)NS(=O)(=O)C)I | C9H6F3IN2O2S
